US07863305B2
To a solution of 7-methoxyindole in DMF was added sodium hydride (0.086 g, 60% in oil) at 0° C. and the resulting mixture was stirred for 30 minutes. 2-Pyridin-3-ylmethylene-malonic acid tert-butyl ester methyl ester (0.470 g) was added and the mixture was stirred for 2 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and water, the organic layer was washed twice with water and once with brine, then dried over magnesium sulfate, filtered and evaporated to dryness to afford the crude 2-[(7-methoxy-indol-1-yl)-pyridin-3-yl-methyl]-malonic acid tert-butyl ester methyl ester, which was crystallized from a hexane-ether mixture (0.207 g).

reactant | 7-methoxyindole | COC=1C=CC=C2C=CNC12 | C9H9NO
reactant | sodium hydride | 0.086 g | [H-].[Na+]
reactant | 2-Pyridin-3-ylmethylene-malonic acid tert-butyl ester methyl ester | 0.470 g | COC(C(C(=O)OC(C)(C)C)=CC=1C=NC=CC1)=O | C14H17NO4
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(7-methoxy-indol-1-yl)-pyridin-3-yl-methyl]-malonic acid tert-butyl ester methyl ester | COC(C(C(=O)OC(C)(C)C)C(C=1C=NC=CC1)N1C=CC2=CC=CC(=C12)OC)=O | C23H26N2O5
